US07326699B2
0.1 g (0.23 mmol) of cis-3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid methyl ester are dissolved in 1.8 ml of THF/1 M LiOH (1:1, v/v). After stirring at RT for 15 min, the pH of the solution is adjusted to pH=6 with 2N HCl and cis-3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid is obtained by filtering the suspension. Analytical HPLC: tR=6.61 min (Grad 2); ES-MS: m/eo=415.0.

reactant | cis-3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid methyl ester | 0.23 mmol, 0.1 g | COC(=O)[C@@H]1C[C@@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C25H24N4O3
reactant | HCl | 2N | Cl | ClH
solvent | THF | 1 M, 1.8 ml | C1CCOC1 | C4H8O
product | cis-3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)C(=O)O | C24H22N4O3
